US06960575B2
(2RS,3RS)-2-Amino-4,4,5,5,6,6,6-heptafluoro-3-hydroxy-1-phenylhexane (Reference compound No. 33-1)
Lithium aluminum hydride (118 mg) is added to a solution of (2RS,3RS)-2-benzoylamino-4,4,5,5,6,6,6-heptafluoro-3-hydroxy-1-phenylhexane (1.10 g, Reference compound No. 31-2) in anhydrous tetrahydrofuran (20 ml), and the mixture is stirred for three days. The reaction mixture is filtered through Celite to remove impurities. The filtrate is concentrated under reduced pressure, diethyl ether is added to the resulting residue, and the whole is extracted with 0.1 N hydrochloric acid. Sodium hydrogencarbonate is added to the extract to basify the system, and the whole is extracted with ethyl acetate. The extract is washed with saturated brine and dried over anhydrous magnesium sulfate. The extract is concentrated under reduced pressure to give the titled reference compound (164 mg).

reactant | Lithium aluminum hydride | 118 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | (2RS,3RS)-2-benzoylamino-4,4,5,5,6,6,6-heptafluoro-3-hydroxy-1-phenylhexane | C(C1=CC=CC=C1)(=O)NC(CC1=CC=CC=C1)C(C(C(C(F)(F)F)(F)F)(F)F)O | C19H16F7NO2
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | (2RS,3RS)-2-Amino-4,4,5,5,6,6,6-heptafluoro-3-hydroxy-1-phenylhexane | 164 mg | NC(CC1=CC=CC=C1)C(C(C(C(F)(F)F)(F)F)(F)F)O | C12H12F7NO
